US08404859B2
To a solution of 2-[2-(3-Hydroxy-phenyl)-acetylamino]-4-methyl-thiazole-5-carboxylic acid (620 mg, 2.121 mmol) in anhydrous DMF (25 mL) was added HBTU (980 mg, 2.584 mmol), HOBt (347 mg, 2.568 mmol), H-DAP(BOC)-OME HCl (810 mg, 3.18 mmol) and triethylamine (1.1 mL, 7.892 mmol). The solution was stirred at 25° C. for 1 h and concentrated at reduced pressure to remove most of the DMF. The reaction was then diluted with ethyl acetate (200 mL), washed with water (50 mL), aqueous 1N HCl (50 mL), and brine (50 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The resulting crude compound was purified by flash chromatography (40%-90% EtOAc in hexanes) to give (S)-3-tert-Butoxycarbonylamino-2-({2-[2-(3-hydroxy-phenyl)-acetylamino]-4-methyl-thiazole-5-carbonyl}-amino)-propionic acid methyl ester (902.1 mg, 77.7%) as a white foam. MS m/e 493.6 (M+H+).

reactant | 2-[2-(3-Hydroxy-phenyl)-acetylamino]-4-methyl-thiazole-5-carboxylic acid | 2.121 mmol, 620 mg | OC=1C=C(C=CC1)CC(=O)NC=1SC(=C(N1)C)C(=O)O | C13H12N2O4S
reactant | HBTU | 2.584 mmol, 980 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 2.568 mmol, 347 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H-DAP(BOC)-OME HCl | 3.18 mmol, 810 mg | CC(C)(C)OC(=O)NC[C@@H](C(=O)OC)N.Cl
reactant | triethylamine | 7.892 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | (S)-3-tert-Butoxycarbonylamino-2-({2-[2-(3-hydroxy-phenyl)-acetylamino]-4-methyl-thiazole-5-carbonyl}-amino)-propionic acid methyl ester | 902.1 mg, 77.7% | COC([C@H](CNC(=O)OC(C)(C)C)NC(=O)C1=C(N=C(S1)NC(CC1=CC(=CC=C1)O)=O)C)=O | C22H28N4O7S
